US07319104B2
Condensation of 2-(4-methoxy-3-methylphenyl)ethanamine (516 mg; 3.12 mmol) with 2-chloro-5-ethyl pyrimidine (446 mg; 3.12 mmol) as per general procedure E (1.5 eq DIEA, nBuOH, 130C, 20 hr) provided 5-ethyl-N-[2-(4-methoxy-3-methylphenyl)ethyl]pyrimidin-2-amine (435 mg; 51% yield).

reactant | 2-(4-methoxy-3-methylphenyl)ethanamine | 3.12 mmol, 516 mg | COC1=C(C=C(C=C1)CCN)C | C10H15NO
reactant | 2-chloro-5-ethyl pyrimidine | 3.12 mmol, 446 mg | ClC1=NC=C(C=N1)CC | C6H7ClN2
reactant | DIEA | 1.5 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | nBuOH | C(CCC)O | C4H10O
product | 5-ethyl-N-[2-(4-methoxy-3-methylphenyl)ethyl]pyrimidin-2-amine | 435 mg, 51% yield | C(C)C=1C=NC(=NC1)NCCC1=CC(=C(C=C1)OC)C | C16H21N3O
